US04092311
Ethyl 3-[6-(m-cyanophenyl)-5-methyl-3-pyridazinyl]carbazate
A 3.15 g. portion of 6-(m-cyanophenyl)-5-methyl-3-chloropyridazine and 2.85 g. of ethyl carbazate in 50 ml. of butanol is stirred at reflux temperature for 4 hours. The mixture is concentrated free of solvent and the oily concentrate is triturated with water and a little ether. The resulting solid is recovered by filtration, air dried and recrystallized several times from ethanol giving a white solid, m.p. 189°-190° C.

reactant | 6-(m-cyanophenyl)-5-methyl-3-chloropyridazine | C(#N)C=1C=C(C=CC1)C1=C(C=C(N=N1)Cl)C | C12H8ClN3
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
solvent | butanol | C(CCC)O | C4H10O
product | Ethyl 3-[6-(m-cyanophenyl)-5-methyl-3-pyridazinyl]carbazate | C(#N)C=1C=C(C=CC1)C1=C(C=C(N=N1)NNC(=O)OCC)C | C15H15N5O2
